US04436753
Aluminum chloride (2.5 g) is added portionwise in a nitrogen atmosphere to a solution of 1 g of methyl 21-chloroformylheneicosanoate and 1.7 g of 3,4,5-trimethoxytoluene in 50 ml of nitrobenzene, and the resulting mixture is stirred at room temperature for 48 hours. To the reaction mixture are added water and diluted hydrochloric acid, and the whole mixture is extracted with ether. After distilling of the solvent, the residue is dissolved in methanol, 4.6 ml of a 30% sodium hydroxide solution is added, and the mixture is stirred at 60° C. for an hour. The reaction mixture is washed with ether, then made acidic with diluted hydrochloric acid and extracted with ethyl acetate. The extract is washed with water and dried, the solvent distilled off, and the residue chromatographed on silica gel. The crystals recovered from the chloroform-ethanol (17:1) eluate are recrystallized from ether-hexane to give colorless crystals of 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoic acid. m.p. 103°-150° C.

reactant | Aluminum chloride | 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl 21-chloroformylheneicosanoate | 1 g | ClC(=O)CCCCCCCCCCCCCCCCCCCCC(=O)OC | C23H43ClO3
reactant | 3,4,5-trimethoxytoluene | 1.7 g | COC=1C=C(C=C(C1OC)OC)C | C10H14O3
reactant | hydrochloric acid | Cl | ClH
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | water | O | H2O
product | 21-(2-hydroxy-3,4-dimethoxy-6-methylbenzoyl)heneicosanoic acid | OC1=C(C(=O)CCCCCCCCCCCCCCCCCCCCC(=O)O)C(=CC(=C1OC)OC)C | C31H52O6
